US08685959B2
Synthesis of (4-(1-((R)-1-(2,4-dichlorophenyl)ethyl)-1H-indazol-6-yl)-5,6-dihydropyridin-1(2H)-yl)((R)-pyrrolidin-2-yl)methanone (see FIG. 19)
To a stirred solution of (R)-1-(1-(2,4-dichlorophenyl)ethyl)-6-(1,2,3,6-tetrahydropyridin-4-yl)-1H-indazole (0.038 g, 0.10 mmol) and (R)-1-(t-butoxycarbonyl)pyrrolidine-2-carboxylic acid (0.044 g, 0.20 mmol) in dichloromethane (1 mL) was added HATU (0.078 g, 0.20 mmol) and Et3N (0.10 mL g, 0.72 mmol). The reaction mixture was stirred at room temperature for 30 min, followed by dilution with dichloromethane. The mixture was washed with deionized water, and the aqueous layer was extracted with dichloromethane (2×10 mL). The combined organic layers were dried (Na2SO4), filtered, and concentrated in vacuo. The crude product was purified by flash chromatography (SiO2, 50% ethyl acetate in hexanes) to afford the desired product (0.037 g, 0.065 mmol, 65%).

reactant | (R)-1-(1-(2,4-dichlorophenyl)ethyl)-6-(1,2,3,6-tetrahydropyridin-4-yl)-1H-indazole | 0.10 mmol, 0.038 g | ClC1=C(C=CC(=C1)Cl)[C@@H](C)N1N=CC2=CC=C(C=C12)C=1CCNCC1 | C20H19Cl2N3
reactant | (R)-1-(t-butoxycarbonyl)pyrrolidine-2-carboxylic acid | 0.20 mmol, 0.044 g | C(C)(C)(C)OC(=O)N1[C@H](CCC1)C(=O)O | C10H17NO4
reactant | HATU | 0.20 mmol, 0.078 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Et3N | 0.72 mmol, 0.10 mL | CCN(CC)CC | C6H15N
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | (4-(1-((R)-1-(2,4-dichlorophenyl)ethyl)-1H-indazol-6-yl)-5,6-dihydropyridin-1(2H)-yl)((R)-pyrrolidin-2-yl)methanone | 0.065 mmol, 0.037 g, 65% | ClC1=C(C=CC(=C1)Cl)[C@@H](C)N1N=CC2=CC=C(C=C12)C1=CCN(CC1)C(=O)[C@@H]1NCCC1 | C25H26Cl2N4O
